US08664233B2
Synthesis of 7-bromo-2-ethoxy-4-(piperazin-1-yl)-5H-pyrimido[5,4-b]indole
200 mg (0.55 mmol) 7-bromo-2-chloro-4-(piperazin-1-yl)-5H-pyrimido[5,4-b]indole and 1.64 ml (1.64 mmol) 1 M NaOEt solution (EtOH) in 6 ml EtOH were heated in a microwave oven to 130° C. for 3 h. Then, the solvent was removed and the residue was suspended in water and sucked off. 200 mg (97%) of the title substance was obtained. ESI-MS [m/z]: 376, 378 [M+H]+

reactant | 7-bromo-2-chloro-4-(piperazin-1-yl)-5H-pyrimido[5,4-b]indole | 0.55 mmol, 200 mg | BrC=1C=CC=2C3=C(NC2C1)C(=NC(=N3)Cl)N3CCNCC3 | C14H13BrClN5
reactant | NaOEt | 1.64 mmol, 1 M, 1.64 ml | CC[O-].[Na+]
solvent | EtOH | 6 ml | CCO | C2H6O
product | 7-bromo-2-ethoxy-4-(piperazin-1-yl)-5H-pyrimido[5,4-b]indole | BrC=1C=CC=2C3=C(NC2C1)C(=NC(=N3)OCC)N3CCNCC3 | C16H18BrN5O
